US08232403B2
Phosphoryl chloride (147.1 mL) is carefully added to DMF (32.5 mL) at 0-15° C. to prepare a solution of vilsmeier reagent in phosphoryl chloride, and the mixture is warmed to 30° C. to give clear pale yellow mixture. 3,4-difluoroacetanilide (30 g, 0.12 mol) is added to the mixture, and the resulting mixture is stirred at 80° C. for 30 min, 90° C. for 30 min, 100° C. for 18 hours, and finally 120° C. for 2 hours. The mixture is cooled to room temperature, poured onto ice-water (1500 mL) and extracted with CH2Cl2 7 times (total 3000 mL). The combined organic layer is dried over magnesium sulfate, filtered and concentrated. The brown crystal is collected and washed with CH2Cl2 to give 2-chloro-6,7-difluoroquinoline-3-carbaldehyde as a pale yellow powder.

reactant | DMF | 32.5 mL | CN(C)C=O | C3H7NO
reactant | vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | 3,4-difluoroacetanilide | 0.12 mol, 30 g | CC(=O)NC1=CC(=C(C=C1)F)F | C8H7F2NO
solvent | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | Phosphoryl chloride | 147.1 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-6,7-difluoroquinoline-3-carbaldehyde | ClC1=NC2=CC(=C(C=C2C=C1C=O)F)F | C10H4ClF2NO
